US07319099B2
(b) 5-Methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid
To 2.3 mmol 5-methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid methyl ester in 10 ml THF was added 20 mmol 2 M aq NaOH, and the mixture was heated at 50° C. for 2 h. The mixture was then cooled to RT and extracted twice with ether. The aqueous phase was acidified with 10% aq citric acid and extracted 3 times with ethyl acetate. The combined organic phases were dried with Na2SO4. Evaporation in vacuo followed by trituration in ether afforded the tide compound. MS (m/e): 312.0 ([M−H]−, 100%)

reactant | 5-methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid methyl ester | 2.3 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OCC(F)(F)F)=O | C11H12F3NO5S
reactant | NaOH | 20 mmol, 2 M | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid | CNS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C10H10F3NO5S
